US05202356
2,6-Dichloroisonicotinic acid (4.0 g) (prepared according to M. M Robinson, J.Amer.Chem.Soc. 80,5481,1958) was dissolved in ethanol (20 ml) and concentrated sulphuric acid (1 ml). After 6 hours at 80°, the solution was cooled, concentrated in vacuo and the residue worked up in the usual manner to give ethyl-2,6-dichloroisonicotinate (3.7 g). NMR 1H: 7.84(2H,s), 4.48(2H,q), 1.48(3H,t).

reactant | 2,6-Dichloroisonicotinic acid | 4.0 g | ClC=1C=C(C(=O)O)C=C(N1)Cl | C6H3Cl2NO2
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl-2,6-dichloroisonicotinate | 3.7 g | C(C)OC(C1=CC(=NC(=C1)Cl)Cl)=O | C8H7Cl2NO2
